US08012980B2
a) (1S,5R)-2-[(1R)-1-Phenylethyl]-6-oxa-2-azabicyclo[3.2.1]octan-7-one
Glyoxylic acid (7.43 mL) was added dropwise to a solution of (R)—N-(1-phenylethyl)but-3-en-1-amine (7.80 g) in tetrahydrofuran (30 mL) at 60° C. over a period of 1.5 h. The reaction was heated at 60° C. for a further 7 h. Water (30 mL) and brine (30 mL) were added and the pH adjusted with 2M NaOH solution to pH 9. The aqueous was extracted with ethyl acetate (3×50 mL), the organics combined, washed with saturated aqueous NaHCO3 solution, water, brine, dried (MgSO4), filtered and evaporated to afford an orange oil (9.5 g). Purification (SiO2 chromatography using elution gradient 25% ethyl acetate in isohexane) afforded the subtitle product (3.10 g) as an orange oil.

reactant | Glyoxylic acid | 7.43 mL | C(C=O)(=O)O | C2H2O3
reactant | (R)—N-(1-phenylethyl)but-3-en-1-amine | 7.80 g | C1(=CC=CC=C1)[C@@H](C)NCCC=C | C12H17N
reactant | Water | 30 mL | O | H2O
reactant | NaOH | 2M | [OH-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | brine | 30 mL | [Cl-].[Na+].O
product | (1S,5R)-2-[(1R)-1-Phenylethyl]-6-oxa-2-azabicyclo[3.2.1]octan-7-one | 9.5 g | C1(=CC=CC=C1)[C@@H](C)N1[C@@H]2C(O[C@H](CC1)C2)=O | C14H17NO2
